US06900227B2
Preparation of 4-fluorophenyl-phenyl-dichloromethane
From benzotrifluoride (146 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and fluorobenzene (96 mg, 1 mmol), light yellow oil (335 mg, 131% crude).

reactant | benzotrifluoride | 1 mmol, 146 mg | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 1 mmol, 96 mg | FC1=CC=CC=C1 | C6H5F
product | 4-fluorophenyl-phenyl-dichloromethane | FC1=CC=C(C=C1)C(Cl)(Cl)C1=CC=CC=C1 | C13H9Cl2F
